US07897766B2
N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2,4-dichlorobenzamide
Prepared from (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine and 2,4-dichlorobenzoic acid (Aldrich) according to method B; 1H NMR (500 MHz, methanol-d4) δ 1.91-1.99 (m, 3H), 2.04 (s, 1H), 2.21-2.33 (m, 4H), 3.44 (s, 2H), 3.55 (s, 4H), 4.41 (s, 1H), 7.41-7.49 (m, 2H), 7.54-7.59 (m, 1H); MS (APCI/NH3) m/z 325 (M+H)+.

reactant | (4s)-1-azatricyclo[3.3.1.13,7]dec-4-ylamine | N12CC3[C@@H](C(CC(C1)C3)C2)N | C9H16N2
reactant | 2,4-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)Cl | C7H4Cl2O2
reactant | NH3 | N | H3N
product | N-[(4s)-1-Azatricyclo[3.3.1.13,7]dec-4-yl]-2,4-dichlorobenzamide | N12CC3[C@@H](C(CC(C1)C3)C2)NC(C2=C(C=C(C=C2)Cl)Cl)=O | C16H18Cl2N2O
